US08193118B2
Step A Synthesis of ((2,3-dimethylphenyl)methyl)-1,3-thiazolin-2-ylamine hydrochloride (Compound C11)
Under a dry nitrogen atmosphere, a stirred mixture of 5.56 grams (0.041 mole) of 2,3-dimethylbenzylamine and 5.0 grams (0.041 mole) of 2-chloroethylisothiocyanate in 100 mL of 1,4-dioxane was heated to 80° C. where it stirred for about 18 hours. The reaction mixture was allowed to cool and a solid precipitate that had formed was collected by filtration. The solid was rinsed with diethyl ether and was dried under reduced pressure to yield 8.0 grams of the title compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2,3-dimethylbenzylamine | 0.041 mole, 5.56 grams | CC1=C(CN)C=CC=C1C | C9H13N
reactant | 2-chloroethylisothiocyanate | 0.041 mole, 5.0 grams | ClCCN=C=S | C3H4ClNS
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | ((2,3-dimethylphenyl)methyl)-1,3-thiazolin-2-ylamine hydrochloride | 8.0 grams | Cl.CC1=C(C=CC=C1C)CNC=1SCCN1 | InChI=1S/C12H16N2S.ClH/c1-9-4-3-5-11(10(9)2)8-14-12-13-6-7-15-12;/h3-5H,6-8H2,1-2H3,(H,13,14);1H
